US04883569
Into a glass-made flask of 100 ml capacity equipped with a reflux condenser and stirrer were introduced 0.25 mole of cyclohexene, 0.25 mole of methyl dichlorosilane and 0.11 g of the same platinum catalyst as used in Example 1 and the flask containing the mixture was put under direct sun light at room temperature. A reaction took place in the mixture and continued without loss of the catalyst activity. The reaction was almost complete after 70 hours of exposure to sun light. Distillation of the thus obtained reaction mixture gave cyclohexyl methyl dichlorosilane in a yield of 91%.

reactant | cyclohexene | 0.25 mole | C1=CCCCC1 | C6H10
reactant | methyl dichlorosilane | 0.25 mole | C[SiH](Cl)Cl | CH4Cl2Si
catalyst | platinum | 0.11 g | [Pt] | Pt
product | cyclohexyl methyl dichlorosilane | yield of 91% | C1(CCCCC1)[Si](Cl)(Cl)C | C7H14Cl2Si
